US05688913
B. Preparation of HCl-Phe-Morpholinamide Salt
Boc-Phe-morpholinamide (12.8 g, 38 mmol) was placed in a 250 ml flask, then 4N HCl in dioxane (30 ml) was added. The mixture was stirred for six hours at which time TLC (silica gel; CHCl3 :MeOH:acetic acid, 90:8:2) indicated that the reaction was completed. Dioxane and excess HCl were removed. A white solid, identified by 1HNMR as HCl-Phe-morpholinamide, was obtained in 100 percent yield (10.3g, 38 mmol).

reactant | Boc-Phe morpholinamide | 38 mmol, 12.8 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C.N1(CCOCC1)C(=O)N
reactant | HCl | 4N | Cl | ClH
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HCl-Phe Morpholinamide | 100 percent yield | N([C@@H](CC1=CC=CC=C1)C(=O)O)Cl.N1(CCOCC1)C(=O)N | InChI=1S/C9H10ClNO2.C5H10N2O2/c10-11-8(9(12)13)6-7-4-2-1-3-5-7;6-5(8)7-1-3-9-4-2-7/h1-5,8,11H,6H2,(H,12,13);1-4H2,(H2,6,8)/t8-;/m0./s1
